* C:\Users\Zwivh\Downloads\git\EEE3088F_2024_MICROMOUSE\Design\Sensing\sensor\lt_spice_simulation\emitter simulation.asc
Q1 Vout_Q1 N002 0 0 2N3904
R2 N001 Vout_Q1 18
V2 N001 0 1.7
R4 N002 Vout_RC 2.7k
V1 Vout_RC 0 3.3
.model NPN NPN
.model PNP PNP
.lib C:\Users\Zwivh\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 10
.backanno
.end
